US07875728B2
4-[(3,4-difluorophenyl)hydrazono]-5-methyl-4H-pyrazol-3-ylamine was prepared from 3,4-difluoroaniline (0.62 g, 4.8 mmol) and 3-amino-5-methylpyrazole (0.6 g, 6.2 mmol) according to procedure described above except that the substituted aniline was initially dissolved in a mixture of water (7.2 mL) and DMF (2.0 mL) prior to being acidified. The crude material was initially purified by column chromatography (CH2Cl2:MeOH=20:1). The isolated material was further purified by recrystallization from ethyl acetate/hexanes to yield 0.2 g (18%) of the compound as a yellow solid. MS (m/z, ES+): 238.1 (M+1, 100%).

reactant | 3,4-difluoroaniline | 4.8 mmol, 0.62 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | 3-amino-5-methylpyrazole | 6.2 mmol, 0.6 g | NC1=NNC(=C1)C | C4H7N3
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | water | 7.2 mL | O | H2O
product | 4-[(3,4-difluorophenyl)hydrazono]-5-methyl-4H-pyrazol-3-ylamine | FC=1C=C(C=CC1F)NN=C1C(=NN=C1C)N | C10H9F2N5
